US08067446B2
Using (3-cyano-4-isobutoxyphenyl)boronic acid and methyl 4,5-dibromo-3-fluorothiophene-2-carboxylate, methyl 4-bromo-5-(3-cyano-4-isobutoxyphenyl)-3-fluorothiophene-2-carboxylate was obtained in accordance with the method of Preparation Example 1(1). To an ethanol (60 ml) suspension of 1.75 g of the compound was added 1.00 g of 10% palladium-carbon, followed by stirring at room temperature for 4 hours under a hydrogen atmosphere at normal pressure. After insoluble matter was removed by filtration, the filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1 to 5:1) to obtain 0.39 g of methyl 5-(3-cyano-4-isobutoxyphenyl)-3-fluorothiophene-2-carboxylate. (2) The compound was dissolved in 15 ml of THF, and 2.5 ml of a 1M aqueous sodium hydroxide solution was added thereto, followed by heating at 60° C. for 5 hours. After cooling to room temperature, 2.5 ml of 1M hydrochloric acid and water were added thereto, followed by extraction with ethyl acetate. The resulting organic layer was dried and concentrated under reduced pressure. The resulting solid was recrystallized from ethyl acetate and hexane to obtain 252 mg of 5-(3-cyano-4-isobutoxyphenyl)-3-fluorothiophene-2-carboxylic acid. (3) Then, 215 mg of sodium hydroxide was added to an ethanol (60 ml) solution of 1.81 g of 5-(3-cyano-4-isobutoxyphenyl)-3-fluorothiophene-2-carboxylic acid, followed by stirring at 80° C. overnight. After the reaction solution was cooled to room temperature, the precipitate was collected by filtration to obtain 1.60 g of sodium 5-(3-cyano-4-isobutoxyphenyl)-3-fluorothiophene-2-carboxylate.

reactant | (3-cyano-4-isobutoxyphenyl)boronic acid | C(#N)C=1C=C(C=CC1OCC(C)C)B(O)O | C11H14BNO3
reactant | methyl 4,5-dibromo-3-fluorothiophene-2-carboxylate | BrC=1C(=C(SC1Br)C(=O)OC)F | C6H3Br2FO2S
product | methyl 4-bromo-5-(3-cyano-4-isobutoxyphenyl)-3-fluorothiophene-2-carboxylate | BrC=1C(=C(SC1C1=CC(=C(C=C1)OCC(C)C)C#N)C(=O)OC)F | C17H15BrFNO3S
